US07579488B2
C. 5-(1-Ethyl-propenyl)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (PF1-A03671-106)
A solution of 1-[2-acetyl-4-(1-ethyl-propenyl)-phenoxy]-3,3-dimethyl-butan-2-one (4.80 g, 16.5 mmol) in DMF (40 mL) is treated with DBU (2.51 g, 16.5 mmol) and the solution is heated to 140° C. for 2 h. The reaction mixture is cooled down and poured into water (400 mL) and extracted with EtOAc (2×100 mL). The organic layer is dried over Na2SO4, concentrated, purified on column chromatography (5% EtOAc/Hex) to give the title compound as an oil (3.20 g, 71%)

reactant | 1-[2-acetyl-4-(1-ethyl-propenyl)-phenoxy]-3,3-dimethyl-butan-2-one | 16.5 mmol, 4.80 g | C(C)(=O)C1=C(OCC(C(C)(C)C)=O)C=CC(=C1)C(=CC)CC | C19H26O3
reactant | DBU | 16.5 mmol, 2.51 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 400 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-(1-Ethyl-propenyl)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 3.20 g, 71% | C(C)OC(=O)C=1OC2=C(C1C)C=C(C=C2)C(=CC)CC | C17H20O3
